US07494999B2
{5-Bromo-6-[4-(4-trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-indol-1-yl}-acetic acid methyl ester (135 mg, 0.24 mmol), triethylamine (40 μL, 0.29 mmol) and 10% Pd/carbon (cat) were stirred under an atmosphere of hydrogen until all the starting material was gone. The reaction was then filtered through celite, concentrated and purified by flash column chromatography (60% hexanes in ethyl acetate) to afford {6-[4-(4-trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-indol-1-yl}-acetic acid methyl ester (96 mg, 83%) as a clear oil. 1H NMR (400 MHz, CDCl3) δ 7.76(d, 1H) 7.75 (d, 1H), 7.51 (dd, 1H), 7.44 (dd, 2H), 7.31 (d, 1H), 6.84 (d, 2H), 6.67 (d, 1H), 4.11 (dd, 2H), 3.78 (s, 3H), 3.33 (m, 4H), 3.16 (m, 4H).

reactant | {5-Bromo-6-[4-(4-trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-indol-1-yl}-acetic acid methyl ester | 0.24 mmol, 135 mg | COC(CN1C=CC2=CC(=C(C=C12)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)Br)=O | C22H21BrF3N3O4S
reactant | triethylamine | 0.29 mmol, 40 μL | C(C)N(CC)CC | C6H15N
catalyst | Pd carbon | [Pd].[C]
product | {6-[4-(4-trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-indol-1-yl}-acetic acid methyl ester | 96 mg, 83% | COC(CN1C=CC2=CC=C(C=C12)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C22H22F3N3O4S
